### ISSUE TITLE
simp hang on simplifying: build a structure, followed by a projection

### ISSUE THREAD

**Issue by bollu** [leanprover/lean4#4413]
```lean
#eval Lean.versionString -- "4.9.0-nightly-2024-05-23"

structure Note where
  pitch : UInt64
  start : Nat

def Note.containsNote (n1 n2 : Note) : Prop :=
  n1.start ≤ n2.start

def Note.lowerSemitone (n : Note) : Note :=
  { n with pitch := n.pitch - 1 }

theorem Note.self_containsNote_lowerSemitone_self (n : Note) :
    n.containsNote (Note.lowerSemitone n) := by
  -- simp [Note.containsNote, Note.lowerSemitone] -- uncomment to see Lean hang
  sorry
```

- [live `lean-lang` URL](https://live.lean-lang.org/#code=%23eval%20Lean.versionString%20--%20%224.9.0-rc1%22%0A%0Astructure%20Note%20where%0A%20%20pitch%20%3A%20UInt64%0A%20%20start%20%3A%20Nat%0A%0Adef%20Note.containsNote%20(n1%20n2%20%3A%20Note)%20%3A%20Prop%20%3A%3D%0A%20%20n1.start%20%E2%89%A4%20n2.start%0A%0Adef%20Note.lowerSemitone%20(n%20%3A%20Note)%20%3A%20Note%20%3A%3D%0A%20%20%7B%20n%20with%20pitch%20%3A%3D%20n.pitch%20-%201%20%7D%0A%0Atheorem%20Note.self_containsNote_lowerSemitone_self%20(n%20%3A%20Note)%20%3A%0A%20%20%20%20n.containsNote%20(Note.lowerSemitone%20n)%20%3A%3D%20by%0A%20%20--%20simp%20%5BNote.containsNote%2C%20Note.lowerSemitone%5D%0A)
- [Zulip thread of report](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/Lean.20hangs.20on.20simping.20on.20v4.2E9.2E0-rc1/near/443668721)

**Comment by kmill** [comment]
@bollu also reported that `dsimp` can hang here:
```
theorem Note.self_containsNote_lowerSemitone_self (n : Note) :
    n.containsNote (Note.lowerSemitone n) := by
  -- dsimp (config := { proj := false }) [Note.containsNote, Note.lowerSemitone] -- does not hang
  dsimp (config := { proj := true })[Note.containsNote, Note.lowerSemitone] -- hangs.
```

**Comment by llllvvuu** [comment]
bisection: this is broken back to 4.0.0

**Comment by llllvvuu** [comment]
Here is a minimization:

```
structure Note where
  pitch : UInt32
  start : Nat

def Note.lowerSemitone (n : Note) : Note :=
  { n with pitch := n.pitch - 0 }

set_option trace.Meta.Tactic.simp true
theorem Note.self_containsNote_lowerSemitone_self (n : Note) :
    n.lowerSemitone.start = Nat.zero := by
  dsimp (config := { proj := true }) only [Note.lowerSemitone]
```

Notes:
- If `pitch` is `Uint8` it doesn't hang.
- If `pitch` is `Uint16`, it takes a while, but eventually completes
- If the `-` is changed to `+`, `/`, or `*`, it doesn't hang, even up to `Uint64`.
